US07968570B2
CuI (0.080 g, 0.42 mmol) and potassium fluoride (0.024 g, 0.42 mmol) were added under an N2 atmosphere to a solution 5-chloro-2-cyclopropyl methyl-7-iodo-2,3-dihydro-isoindol-1-one (0.123 g, 0.35 mmol) and chloro-difluoro-acetic acid methyl ester (0.046 mL, 0.42 mmol) in DMF (4 mL). The mixture was stirred at 140° C. for 18 h. The reaction was cooled and the solvent evaporated. Silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-chloro-2-cyclopropyl methyl-7-trifluoromethyl-2,3-dihydro-isoindol-1-one (0.020 g, 20%). 1H NMR (300 MHz, CDCl3): δ (ppm) 0.33 (s, 2H), 0.59 (m, 2H), 1.05 (m, 1H), 3.48 (d, 2H) 4.53 (s, 2H), 7.64 (s, 1H), 7.73 (s, 1H). GC-MS: m/z 289 (M)+, 274 (M-15)+.

reactant | potassium fluoride | 0.42 mmol, 0.024 g | [F-].[K+]
reactant | 5-chloro-2-cyclopropyl methyl-7-iodo-2,3-dihydro-isoindol-1-one | 0.35 mmol, 0.123 g | ClC=1C=C2C(N(C(C2=C(C1)I)=O)C1CC1)C | C12H11ClINO
reactant | chloro-difluoro-acetic acid methyl ester | 0.42 mmol, 0.046 mL | COC(C(F)(F)Cl)=O | C3H3ClF2O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.42 mmol, 0.080 g | [Cu]I
product | 5-chloro-2-cyclopropyl methyl-7-trifluoromethyl-2,3-dihydro-isoindol-1-one | 0.020 g, 20% | ClC=1C=C2C(N(C(C2=C(C1)C(F)(F)F)=O)C1CC1)C | C13H11ClF3NO
